US05877202
8-Amino-octanoic acid methyl-butyl-amide hydrochloric acid salt
Combine 8-(t-butoxycarbonyl)amino-octanoic acid methyl-butyl-amide and 4M hydrochloric acid in dioxane (10 mL). After 1 hour, the reaction mixture is evaporated in vacuo to give a residue. Triturate the residue with diethyl ether to give a solid. Collect the solid by filtration and dry in vacuo to give the title compound.

reactant | 8-(t-butoxycarbonyl)amino-octanoic acid methyl-butyl-amide | CN(C(CCCCCCCNC(=O)OC(C)(C)C)=O)CCCC | C18H36N2O3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-Amino-octanoic acid methyl-butyl-amide hydrochloric acid salt | Cl.CN(C(CCCCCCCN)=O)CCCC | InChI=1S/C13H28N2O.ClH/c1-3-4-12-15(2)13(16)10-8-6-5-7-9-11-14;/h3-12,14H2,1-2H3;1H
